US04663453
A slurry was prepared comprising 5-chloroindoline (15.3 gm, 0.1 mole), dimethylsulfoxide (DMSO) [50 ml] and sodium hydride (5.28 gm, 50% in oil, washed with hexane). The slurry was permitted to stir at room temperature for 1 hour. To this a solution of o-fluorobenzamide (15.2 gm, 1.1 eq.) in DMSO (20 ml) was added dropwise with the temperature between 17°-19° C. At the end of addition the reaction mixture was stirred at room temperature for 2 hours, then heated to 75°-78° C. for 16 hours. The reaction mixture was partitioned between methylene chloride (300 ml) and water (250 ml). The aqueous phase was separated and extracted twice with methylene chloride (150 ml). The combined organic solution was washed twice with water, twice with HCl (2N, 100 ml), brine (2×50 ml), dried over Na2SO4, concentrated to about 50 ml. Ether (50 ml) was added. The product was crystallized out upon standing overnight (about 16 hours). The yield was 14.2 gm (52%); m.p. 137°-138° C. Recrystallization from methylene chloride and ether yielded 2-(5-chloro-indolin-1-yl)benzamide (11.82 gm) m.p. 137°-138° C.

reactant | 5-chloroindoline | 0.1 mole, 15.3 gm | ClC=1C=C2CCNC2=CC1 | C8H8ClN
reactant | sodium hydride | 5.28 gm | [H-].[Na+]
reactant | o-fluorobenzamide | 15.2 gm, 1.1 eq. | FC1=C(C(=O)N)C=CC=C1 | C7H6FNO
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-(5-chloro-indolin-1-yl)benzamide | 11.82 gm | ClC=1C=C2CCN(C2=CC1)C1=C(C(=O)N)C=CC=C1 | C15H13ClN2O
